US07605259B2
Step 3: 4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-but-2-enylamine
To a solution of 2-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-but-2-enyl}-isoindole-1,3-dione (5.12 g, 11.9 mmol) in absolute ethanol (100 ml) under an atmosphere of argon was added hydrazine (0.75 ml, 24 mmol), and the reaction mixture was refluxed for 2.5 h. The ice-cold reaction mixture was filtered and solvent was removed under reduced pressure. The residue was purified by column chromatography to yield 2.63 g (74%) as yellow oil.

reactant | 2-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-but-2-enyl}-isoindole-1,3-dione | 11.9 mmol, 5.12 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CC=CCN1C(C2=CC=CC=C2C1=O)=O | C22H21Cl2N3O2
reactant | hydrazine | 24 mmol, 0.75 ml | NN | H4N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-but-2-enylamine | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CC=CCN | C14H19Cl2N3
